
* Comparator threshold detector using LT1715
* Requirement:
*   Output switches LOW -> HIGH when input rises through 2.50 V +/-0.05 V
*
* Comparator used:
*   LT1715 from LTC1.lib
*   Pin order:
*     1 = In+
*     2 = In-
*     3 = Vcc
*     4 = Vee
*     5 = VS+
*     6 = GND
*     7 = OUT
*
* Note:
*   Vcc and VS+ are tied to +5V
*   Vee and GND are tied to 0V
*   VIN goes to In+
*   2.50 V reference goes to In-
*   Therefore OUT goes HIGH when VIN rises above 2.50 V

.lib LTC1.lib

.param VDDVAL=5.0
.param RREF_TOP=10k
.param RREF_BOT=10k

* 5 V supply
VDD VDD 0 {VDDVAL}

* Input ramp for threshold test
VIN_SRC VIN 0 PWL(0 0 10m 5)

* Reference divider: 5.0 V -> 2.50 V
R1 VDD VREF {RREF_TOP}
R2 VREF 0   {RREF_BOT}

* Supply decoupling
C1 VDD 0 100n

* Comparator
* XU1 In+ In- Vcc Vee VS+ GND OUT LT1715
XU1 VIN VREF VDD 0 VDD 0 VOUT LT1715

* Light output load
RLOAD VOUT 0 10k

* Operating point
.op

* Transient test: input rises from 0 V to 5 V in 10 ms
.tran 0 10m 0 100n

* Measurements
.meas op VREF_DC FIND V(VREF)

* Find when output crosses mid-level on rising edge
.meas tran TSW WHEN V(VOUT)=2.5 RISE=1
.meas tran VIN_AT_SWITCH FIND V(VIN) AT=TSW
.meas tran VOUT_FINAL FIND V(VOUT) AT=9m

.end
``
