

* 12.0 V to 10.0 mA Constant-Current Source for 100 Ohm to 500 Ohm Load
* Replacement used for original U1 (LM317A):
* LT317A from LTC.lib
* Pin order from provided symbol:
* 1 = ADJ
* 2 = OUT
* 3 = IN

.lib LTC.lib

* 12.0 V supply
V1 +12V 0 12

* Input bypass capacitor
C1 +12V 0 100n

* LT317A constant-current source
* Pin order: ADJ OUT IN
XU1 IOUT U1_OUT +12V LT317A

* Current-set resistor
R1 U1_OUT IOUT 124

* External load stepped from 100 Ohm to 500 Ohm
RL IOUT 0 {RLOAD}

.step param RLOAD 100 500 100
.op

* Measurements for each stepped load value

.meas op ILOAD param I(RL)
.meas op VLOAD param V(IOUT)
.meas op VSET  param V(U1_OUT,IOUT)


.end
``

