
* 0 V / 5 V Input Inverting NMOS Switch for 1 kOhm Load on 5.0 V Supply
* Replacement used for original Q1 (2N7002):
* RJK0452DPB from Contrib/Renesas/nmos/RJK0452DPB.lib
* Pin order from provided symbol:
* 1 = D
* 2 = G
* 3 = S

.lib Contrib/Renesas/nmos/RJK0452DPB.lib

* 5.0 V supply
VDD +5V 0 5

* Input source to be swept between 0 V and 5 V
VIN_SRC VIN 0 0

* Output load / pull-up
RLOAD +5V VOUT 1k

* Gate pull-down resistor
R1 VIN 0 100k

* Low-side NMOS inverter
* Pin order: D G S
XQ1 VOUT VIN 0 RJK0452DPB

* Sweep input to verify both required logic states
.dc VIN_SRC 0 5 5

* Measure output voltage at required input levels
.meas DC VOUT_AT_VIN_0 FIND V(VOUT) AT=0
.meas DC VOUT_AT_VIN_5 FIND V(VOUT) AT=5

.en
