
* 0 V / 5 V Control Input Low-Side Load Switch for 100 Ohm Load on 5.0 V Supply
* Replacement used for original Q1 (2N7002):
* RJK0452DPB from Contrib/Renesas/nmos/RJK0452DPB.lib
* Pin order from symbol:
* 1 = D
* 2 = G
* 3 = S

.lib Contrib/Renesas/nmos/RJK0452DPB.lib

* 5.0 V supply
VSUP +5V 0 5

* 0 V / 5 V control input
VCTRL CTRL 0 0

* Switched load
RLOAD +5V LOAD 100

* Gate pull-down resistor
R1 CTRL 0 100k

* Low-side NMOS switch
* Pin order: D G S
XQ1 LOAD CTRL 0 RJK0452DPB

* DC sweep to verify OFF and ON states
.dc VCTRL 0 5 5

* Measure load current at OFF and ON control levels
* Supply current is negative when the source delivers current, so negate it
.meas DC ILOAD_OFF FIND -I(VSUP) AT=0
.meas DC ILOAD_ON  FIND -I(VSUP) AT=5

.end
