
* File: window_comparator_LT1011.cir
* Replacement used: 2 x LT1011 from LTC1.lib instead of LM393
*
* Requirement:
*   Vin = 1.5 V  -> OUT LOW
*   Vin = 2.5 V  -> OUT HIGH
*   Vin = 3.5 V  -> OUT LOW
*
* Window comparator:
*   U1A asserts HIGH only when VIN > 2.0 V
*   U1B asserts HIGH only when VIN < 3.0 V
*   Wired output with pull-up makes OUT HIGH only when both conditions are true

.lib LTC1.lib

VCC +5V 0 DC 5
VIN VIN 0 {VIN_DC}

* Reference ladder: 5 V -> 3.0 V and 2.0 V taps
R1 +5V VREF3 20k
R2 VREF3 VREF2 10k
R3 VREF2 0 20k

* Output pull-up
R4 +5V OUT 10k

* Supply bypass
C1 +5V 0 100n

* LT1011 pin order from provided symbol:
* 1 = GND
* 2 = In+
* 3 = In-
* 4 = V-
* 5 = BAL
* 6 = STROBE
* 7 = OUT
* 8 = V+
*
* U1A: lower threshold comparator, HIGH/released when VIN > 2.0 V
XU1A 0 VIN  VREF2 0 NCBAL1 NCSTR1 OUT +5V LT1011

* U1B: upper threshold comparator, HIGH/released when VIN < 3.0 V
XU1B 0 VREF3 VIN   0 NCBAL2 NCSTR2 OUT +5V LT1011

* BAL and STROBE are unused in this design and left without external circuitry
* via private nets, which preserves the intended comparator function.

* Check required operating points
.step param VIN_DC list 1.5 2.5 3.5
.op

.meas op VOUT_DC  PARAM V(OUT)
.meas op VREF2_DC PARAM V(VREF2)
.meas op VREF3_DC PARAM V(VREF3)

.end
